.subckt DUT IN OUT VDD VSS
XP0 OUT IN VDD VDD sky130_fd_pr__pfet_01v8 W=8 L=0.15 M=1
XN0 OUT IN NS VSS sky130_fd_pr__nfet_01v8 W=4 L=0.15 M=1
XEX NS IN VSS VSS sky130_fd_pr__nfet_01v8 W=0.42 L=1 M=1
.ends DUT
