.subckt OTA VDD GND VINP VINN VOUT IBIAS
XP1 N1 VINN NT VDD sky130_fd_pr__pfet_01v8 W=8 L=1 M=2
XP2 N2 VINP NT VDD sky130_fd_pr__pfet_01v8 W=8 L=1 M=2
XPT NT IBIAS VDD VDD sky130_fd_pr__pfet_01v8 W=8 L=1 M=2
XPR IBIAS IBIAS VDD VDD sky130_fd_pr__pfet_01v8 W=8 L=1 M=1
XN1 N1 N1 GND GND sky130_fd_pr__nfet_01v8 W=8 L=1 M=1
XN2 N2 N1 GND GND sky130_fd_pr__nfet_01v8 W=8 L=1 M=1
XN3 VOUT GND GND GND sky130_fd_pr__nfet_01v8 W=8 L=1 M=2
XP3 VOUT IBIAS VDD VDD sky130_fd_pr__pfet_01v8 W=8 L=1 M=4
RZ N2 NC 1k
CC NC VOUT 2p
.ends OTA
